US05332739
(1) Synthesis of 2-acetonyloxyphenol
11 g of catechol, 16.8 g of sodium hydrogencarbonate and 9.5 g of monochloroacetone were dissolved in a mixed solvent of 300 ml of water and 100 ml of isopropyl alcohol, and the solution was heated up to 50° to 60° C. and then stirred for 4 hours. Afterward, 50 ml of a 8% aqueous sodium hydroxide solution and 9.3 g of monochloroacetone were further added, followed by stirring at 50° C. for 5 hours. After standing for cooling, insolubles were removed from the solution by filtration, and the resultant filtrate was concentrated until the volume of the solution became about 300 ml, and then extracted with chloroform. The chloroform layer was washed with a dilute aqueous sodium hydroxide solution and then with water. The solvent was distilled off, and the residue was purified through a silica gel column chromatograph (chloroform/hexane=7/3 to chloroform alone in volume ratio), and then recrystallized from ether/hexane, thereby obtaining 7.73 g of crystals of 2-acetonyloxyphenol.

reactant | catechol | 11 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | sodium hydrogencarbonate | 16.8 g | C(O)([O-])=O.[Na+]
reactant | monochloroacetone | 9.5 g | ClCC(C)=O | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | monochloroacetone | 9.3 g | ClCC(C)=O | C3H5ClO
solvent | water | 300 ml | O | H2O
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 2-acetonyloxyphenol | 7.73 g | C(C(=O)C)OC1=C(C=CC=C1)O | C9H10O3
